US20010044538A1
To a solution of (3-bromo-5-methylpyridin-2-yl)-(1-pyridin-4-ylethylidene)amine (4.25 g, 14.65 mmol) in dimethylformamide (75 ml) was added DABCO® (4.93 g, 43.96 mmol) and], bis-dichlorotriphenylphosphine palladium (0.52 g, 0.73 mmol). The reaction mixture was heated at 120° C. under argon atmosphere. After 1.5 days, the reaction mixture was cooled into room temperature and poured into 10% hydrochloric acid (100 ml). The solution was filtered through Celite® and the filtrate was neutralized to pH 7 with 10% sodium hydroxide and the solid was filtered off to give 4-methyl-2-(pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine (1.57 g) as a brown solid.

reactant | (3-bromo-5-methylpyridin-2-yl)-(1-pyridin-4-ylethylidene)amine | 14.65 mmol, 4.25 g | BrC=1C(=NC=C(C1)C)N=C(C)C1=CC=NC=C1 | C13H12BrN3
reactant | DABCO | C1CN2CCN1CC2 | C6H12N2
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 4-methyl-2-(pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine | 1.57 g | CC1=C2C(=NC=C1)NC(=C2)C2=CC=NC=C2 | C13H11N3
